US05834463
4-(Phthalimidomethyl)-1,3-dihydro-1,5-benzodiazepin-2(2H)-one
A mixture of methyl 3-oxo-4-phthalimidobutyrate (15.4 g, 59 mmol), o-phenylenediamine (6.37 g, 59 mmol) and xylene (150 mL) was refluxed for 20 minutes using Dean-Stark apparatus. The reaction mixture was cooled, and resulting crystals were collected by filtration and washed with toluene to give the object compound (15.36 g, 81%), m.p.244°-246° C.

reactant | methyl 3-oxo-4-phthalimidobutyrate | 59 mmol, 15.4 g | O=C(CC(=O)OC)CN1C(C=2C(C1=O)=CC=CC2)=O | C13H11NO5
reactant | o-phenylenediamine | 59 mmol, 6.37 g | C1(=C(C=CC=C1)N)N | C6H8N2
solvent | xylene | 150 mL | C=1(C(=CC=CC1)C)C | C8H10
product | 4-(Phthalimidomethyl)-1,3-dihydro-1,5-benzodiazepin-2(2H)-one | 15.36 g, 81% | C1(C=2C(C(N1CC1=NC3=C(NC(C1)=O)C=CC=C3)=O)=CC=CC2)=O | C18H13N3O3
